US07605289B2
Preparation of N-cyclopropylcyclohexylamine
To cyclohexanone (1.0 mL,10 mmol) in dichloroethane (30 mL) was added cyclopropylamine (0.70 mL, 10 mmol), NaBH(OAc)3 (3.18 g, 15 mmol) and AcOH (0.57 mL, 10 mmol). The reaction was stirred at room temperature for 10 h. The reaction mixture was poured into water (60 mL) and acidified to pH 2 with 5 N HCl followed by removal of the organic portion. The aqueous portion was brought to pH>12 with 5 N NaOH and extracted with CH2Cl2 (3×30 mL). The collected organic extracts were dried with Na2SO4 and the volatile organics were removed in vacuo to afford the desired intermediate.

reactant | cyclohexanone | 10 mmol, 1.0 mL | C1(CCCCC1)=O | C6H10O
reactant | cyclopropylamine | 10 mmol, 0.70 mL | C1(CC1)N | C3H7N
reactant | NaBH(OAc)3 | 15 mmol, 3.18 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 10 mmol, 0.57 mL | CC(=O)O | C2H4O2
reactant | HCl | 5 N | Cl | ClH
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
solvent | water | 60 mL | O | H2O
product | N-cyclopropylcyclohexylamine | C1(CC1)NC1CCCCC1 | C9H17N
